US06476053B1
3-Ethyl-1-nonylpyrrolidine-2,5-dione
A solution of 3-ethyl succinimide (4.72 mM) in dimethylformanide (10 ml) was treated with sodium hydride (5.20 mM) and nonyl bromide (5.20 mM). The reaction mixture was stirred at room temperature for two hours and then quenched with saturated aqueous ammonium chloride. The organic layer was separated and the aqueous layer extracted with ethyl acetate(3×25 ml). The combined organic layers were washed with 10% aqueous sodium thiosulfate, brine, dried over sodium sulfate and concentrated in vacuo. Chromatography over silica gel afforded the desired product, pure 3-ethylN-nonyl succinimide.

reactant | 3-ethyl succinimide | 4.72 mM | C(C)C1CC(=O)NC1=O | C6H9NO2
reactant | sodium hydride | 5.20 mM | [H-].[Na+]
reactant | nonyl bromide | 5.20 mM | C(CCCCCCCC)Br | C9H19Br
product | 3-ethylN-nonyl succinimide | C(C)C1CC(=O)N(C1=O)CCCCCCCCC | C15H27NO2
